US09422331B2
A rt solution of tert-butyl(S)-1-((3S,4S)-5-acetyl-7-cyano-1-((2′-fluoro-4-methoxybiphenyl-3-yl)methyl)-4-methyl-2-oxo-2,3,4,5-tetrahydro-1H-benzo[b][1,4]diazepin-3-ylamino)-1-oxopropan-2-yl(methyl)carbamate (39 mg, 59.3 μmol) in 4 M HCl in dioxane (296 μl) was stirred for 1 h. The reaction was diluted with Et2O and the solids were collected by vacuum filtration, taken up in MeCN—H2O, and lyophilized to provide (S)-N-((3S,4S)-5-acetyl-7-cyano-1-((2′-fluoro-4-methoxybiphenyl-3-yl)methyl)-4-methyl-2-oxo-2,3,4,5-tetrahydro-1H-benzo[b][1,4]diazepin-3-yl)-2-(methylamino)propanamide hydrochloride (23.9 mg, 68%) as a white solid. MS m/z 558 (MH)+.

reactant | tert-butyl(S)-1-((3S,4S)-5-acetyl-7-cyano-1-((2′-fluoro-4-methoxybiphenyl-3-yl)methyl)-4-methyl-2-oxo-2,3,4,5-tetrahydro-1H-benzo[b][1,4]diazepin-3-ylamino)-1-oxopropan-2-yl(methyl)carbamate | 59.3 μmol, 39 mg | C(C)(=O)N1C2=C(N(C([C@H]([C@@H]1C)NC([C@H](C)N(C(OC(C)(C)C)=O)C)=O)=O)CC=1C=C(C=CC1OC)C1=C(C=CC=C1)F)C=CC(=C2)C#N | C36H40FN5O6
reactant | HCl | 4 M | Cl | ClH
solvent | dioxane | 296 μl | O1CCOCC1 | C4H8O2
solvent | Et2O | CCOCC | C4H10O
product | (S)-N-((3S,4S)-5-acetyl-7-cyano-1-((2′-fluoro-4-methoxybiphenyl-3-yl)methyl)-4-methyl-2-oxo-2,3,4,5-tetrahydro-1H-benzo[b][1,4]diazepin-3-yl)-2-(methylamino)propanamide hydrochloride | 23.9 mg, 68% | Cl.C(C)(=O)N1C2=C(N(C([C@H]([C@@H]1C)NC([C@H](C)NC)=O)=O)CC=1C=C(C=CC1OC)C1=C(C=CC=C1)F)C=CC(=C2)C#N | InChI=1S/C31H32FN5O4.ClH/c1-18(34-4)30(39)35-29-19(2)37(20(3)38)27-14-21(16-33)10-12-26(27)36(31(29)40)17-23-15-22(11-13-28(23)41-5)24-8-6-7-9-25(24)32;/h6-15,18-19,29,34H,17H2,1-5H3,(H,35,39);1H/t18-,19-,29-;/m0./s1
